US07842685B2
A mixture of 4-(5-chlorothiazolo[5,4-b]pyridine-2-yl)-3-fluorobenzaldehyde (2.08 g, 7.11 mmol), methyl azetidine-3-carboxylate hydrochloride (1.62 g, 10.7 mmol), N-ethyl-N-isopropylpropan-2-amine (1.86 mL, 10.7 mmol) in dichloromethane (40.00 mL) and methanol (30.00 mL) was stirred for 5 min. Then acetic acid (1.64 mL, 28.4 mmol) was added and the mixture was allowed to stir for 90 min at 50° C. Sodium cyanoborohydride (0.223 g, 3.55 mmol) was added. After 15 min, the solvent removed, and the mixture concentrated onto silica gel. Purification by silica gel chromatography, 120 g column, 30-40% EtOAc/hex followed by 50-60% (3% TEA in EtOAc/hex) gave methyl 1-((4-(5-chlorothiazolo[5,4-b]pyridine-2-yl)-3-fluorophenyl)methyl)azetidine-3-carboxylate. MS (ESI) m/z: calculated: 391.1; Observed: 392.0 (M++1).

reactant | 4-(5-chlorothiazolo[5,4-b]pyridine-2-yl)-3-fluorobenzaldehyde | 7.11 mmol, 2.08 g | ClC1=CC=C2C(=N1)SC(=N2)C2=C(C=C(C=O)C=C2)F | C13H6ClFN2OS
reactant | methyl azetidine-3-carboxylate hydrochloride | 10.7 mmol, 1.62 g | Cl.N1CC(C1)C(=O)OC
reactant | N-ethyl-N-isopropylpropan-2-amine | 10.7 mmol, 1.86 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | acetic acid | 28.4 mmol, 1.64 mL | C(C)(=O)O | C2H4O2
reactant | Sodium cyanoborohydride | 3.55 mmol, 0.223 g | C(#N)[BH3-].[Na+]
solvent | dichloromethane | 40.00 mL | ClCCl | CH2Cl2
solvent | methanol | 30.00 mL | CO | CH4O
product | methyl 1-((4-(5-chlorothiazolo[5,4-b]pyridine-2-yl)-3-fluorophenyl)methyl)azetidine-3-carboxylate | ClC1=CC=C2C(=N1)SC(=N2)C2=C(C=C(C=C2)CN2CC(C2)C(=O)OC)F | C18H15ClFN3O2S
